US04697031
3-[[5-(Dodecyloxy)-1-naphthalenyl]oxy]-1,2-propanediol
To a suspension of 2.19 g of 50% sodium hydride in 80 ml of dimethylformamide, under argon, was added with stirring a solution of 12 g of 5-(dodecyloxy)-1-naphthalenol in 60 ml of tetrahydrofuran over 1/2 hour. A 2 g portion of sodium iodide and 9.77 g of solketal mesylate were added and the mixture was stirred overnight. The mixture was diluted with water and extracted with ether. The ether extract was washed with dilute sodium hydroxide, then brine, dried, filtered through silica gel and the solvent removed. The residue was refluxed in a mixture of 100 ml of methanol, 16 ml of water and 1 ml of concentrated sulfuric acid for one hour, then cooled and the solid collected. This solid was dissolved in boiling chloroform containing magnesium sulfate and activated carbon and filtered through diatomaceous earth. The filtrate was evaporated and the residue recyrstallized from carbon tetrachloride, giving 8 g of the desired compound as an off-white solid, mp 143°-144° C.

reactant | sodium hydride | 2.19 g | [H-].[Na+]
reactant | 5-(dodecyloxy)-1-naphthalenol | 12 g | C(CCCCCCCCCCC)OC1=C2C=CC=C(C2=CC=C1)O | C22H32O2
reactant | sodium iodide | [I-].[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 3-[[5-(Dodecyloxy)-1-naphthalenyl]oxy]-1,2-propanediol | 8 g | C(CCCCCCCCCCC)OC1=C2C=CC=C(C2=CC=C1)OCC(CO)O | C25H38O4
